US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-7-oxo-4,5,6,7-tetrahydro-1H-indol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
1-(4-Methoxybutyl)-7-oxo-4,5,6,7-tetrahydro-1H-indole-2-carboxylic acid (210 mg), tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (292 mg) and N,N-diisopropylethylamine (550 μl) were dissolved in 1,2-dichloroethane (10 ml), chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (244 mg) was added, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue m was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (245 mg).

reactant | 1-(4-Methoxybutyl)-7-oxo-4,5,6,7-tetrahydro-1H-indole-2-carboxylic acid | 210 mg | COCCCCN1C(=CC=2CCCC(C12)=O)C(=O)O | C14H19NO4
reactant | tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 292 mg | CC(CN[C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C | C19H35N3O4
reactant | N,N-diisopropylethylamine | 550 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | 244 mg | F[P-](F)(F)(F)(F)F.ClC(=[N+](C)C)N(C)C
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-7-oxo-4,5,6,7-tetrahydro-1H-indol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 245 mg | COCCCCN1C(=CC=2CCCC(C12)=O)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C33H52N4O7
